US08236835B2
Preparation of 3-(4-(trifluoromethoxy)benzyl)pyrrolidin-2-one
Following the procedure as described in Preparation 5, making variations as required to use 4-(trifluoromethoxy)benzaldehyde in place of 4-fluorobenzaldehyde to react with 1-(2,2,2-trifluoroacetyl)pyrrolidin-2-one, the title compound was obtained as a white solid in 53% yield: 1H NMR (300 MHz, CDCl3) δ 7.24-7.06 (m, 4H), 3.71-3.50 (m, 2H), 3.34-3.02 (m, 3H), 2.19-2.00 (m, 1H), 1.83-1.70 (m, 1H); MS (ES+) m/z 260.1 (M+1).

reactant | 4-(trifluoromethoxy)benzaldehyde | FC(OC1=CC=C(C=O)C=C1)(F)F | C8H5F3O2
reactant | 1-(2,2,2-trifluoroacetyl)pyrrolidin-2-one | FC(C(=O)N1C(CCC1)=O)(F)F | C6H6F3NO2
product | 3-(4-(trifluoromethoxy)benzyl)pyrrolidin-2-one | 53% yield | FC(OC1=CC=C(CC2C(NCC2)=O)C=C1)(F)F | C12H12F3NO2
